US07732596B2
2-(β-D-Glucopyranosyl)-4-(2-phenylethyl)benzo[b]thiophene
To a solution of 2-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-4-(2-phenylethyl)benzo[b]thiophene (0.58 g) and ethanethiol (1.13 mL) in dichloromethane (10 mL) was added boron trifluoride diethyl ether complex (1.43 mL) at room temperature, and the mixture was stirred for 3 hours. A saturated potassium carbonate aqueous solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give the title compound (94 mg).

reactant | 2-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-4-(2-phenylethyl)benzo[b]thiophene | 0.58 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC2=C(S1)C=CC=C2CCC2=CC=CC=C2 | C50H48O5S
reactant | ethanethiol | 1.13 mL | C(C)S | C2H6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(β-D-Glucopyranosyl)-4-(2-phenylethyl)benzo[b]thiophene | 94 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC2=C(S1)C=CC=C2CCC2=CC=CC=C2 | C22H24O5S
